US06075037
a) Ethyl2-(4-methoxybenzyl)-3-oxobutyrate
A solution of ethyl acetoacetate and 4-methoxybenzyl chloride is stirred under an argon atmosphere with 1,8-diazabicyclo[5.4.0]undec-7-ene at room temperature in CH3CN. The mixture is partitioned between 3 N HCl and EtOAc. The organic extract is washed successively with H2O, aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (Na2SO4). The solvent is removed in vacuo to afford the title compound.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
solvent | CH3CN | CC#N | C2H3N
product | Ethyl2-(4-methoxybenzyl)-3-oxobutyrate | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)OC)=O | C14H18O4
